US09290472B2
A mixture of 3-dimethylaminopropylamine (3.06 g), 2,4-dimethoxybenzaldehyde (6.0 g) and sodium triacetoxyborohydride (9.54 g) in methanol (20 mL) was stirred at room temperature for 10 hours. The mixture was concentrated under vacuum and the residue was dissolved in ethyl acetate and washed with water and brine, dried (Na2SO4) and filtered. The filtrate was evaporated to dryness to give N-(2,4-dimethoxybenzyl)-N-(3-dimethylaminopropyl)amine (7.2 g) as a brown oil which was used directly without further characterisation.

reactant | 3-dimethylaminopropylamine | 3.06 g | CN(CCCN)C | C5H14N2
reactant | 2,4-dimethoxybenzaldehyde | 6.0 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | sodium triacetoxyborohydride | 9.54 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | N-(2,4-dimethoxybenzyl)-N-(3-dimethylaminopropyl)amine | 7.2 g | COC1=C(CNCCCN(C)C)C=CC(=C1)OC | C14H24N2O2
